US03974161
B. 6-Methylthio-2-Aminoquinoline-3-Carboxamide
A mixture of α-cyano-β-(2-nitro-5-methylthiophenyl)acrylamide (8.4 g., 0.032 mole) in acetic acid - N,N-dimethylformamide (110 ml. of 1:1) is heated in a 75°C. bath. Iron powder (2.0 g.) is added and the mixture stirred until the internal temperature rose to 95°C. Additional iron powder (6.16 g. total iron added=0.146 mole) is added in small portions over a fifteen-minute period. The reaction mixture is stirred for one hour following completion of addition and then filtered hot. The iron residue is washed with hot acetic acid and the combined filtrate and wash solution poured into IN hydrochloric acid (200 ml.) The hydrochloride salt which separates is filtered off and dissolved in hot dilute sodium hydroxide. The yellow solid which separates on cooling is filtered off, washed with isopropyl alcohol and air-dried. Yield = 3.26 g. (44%), M.P. 229°-242°C.

reactant | α-cyano-β-(2-nitro-5-methylthiophenyl)acrylamide | 0.032 mole, 8.4 g | C(#N)C(C(=O)N)=CC1=C(C=CC(=C1)SC)[N+](=O)[O-] | C11H9N3O3S
solvent | acetic acid N,N-dimethylformamide | 110 ml | C(C)(=O)O.CN(C=O)C
catalyst | Iron | 2.0 g | [Fe] | Fe
catalyst | iron | 0.146 mole, 6.16 g | [Fe] | Fe
product | 6-Methylthio-2-Aminoquinoline-3-Carboxamide | CSC=1C=C2C=C(C(=NC2=CC1)N)C(=O)N | C11H11N3OS
